US05574016
The mixture of 60% sodium hydride (7.92 g) in tetrahydrofuran (100 ml) was stirred at -10° C. under nitrogen gas. To reaction mixture was poured ethyl 5-diethoxyphosphoryl-3-pentenoate (49.61 g) and stirred for 1 hour at -10° C. To reaction mixture was poured p-cyanobenzaldehyde (20.00 g) in tetrahydrofuran (50 ml) and stirred for 3 hours at 0° C. The reaction mixture was poured into a mixture of brine and ethyl acetate. The separated organic layer was dried over magnesium sulfate and treated with activated charcoal. After filtration, the filtrate was evaporated in vacuo. The residue was subjected to column chromatography on silica gel and eluted with ethyl acetate/n-hexane=1:4. The fractions containing the object compound were combined and evaporated in vacuo, and give ethyl 5-(4-cyanophenyl)-2,4-pentadienoate (10.04 g).

reactant | sodium hydride | 7.92 g | [H-].[Na+]
reactant | ethyl 5-diethoxyphosphoryl-3-pentenoate | 49.61 g | C(C)OP(=O)(OCC)CC=CCC(=O)OCC | C11H21O5P
reactant | p-cyanobenzaldehyde | 20.00 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | ethyl 5-(4-cyanophenyl)-2,4-pentadienoate | 10.04 g | C(#N)C1=CC=C(C=C1)C=CC=CC(=O)OCC | C14H13NO2
